US07112682B2
(3-Fluoropyridin-4-yl)-(indol-1-yl)-propylamine hydrochloride
Prepare a solution of 18.0 g potassium tert-butoxide in 53 mL NMP and stir the suspension at 20° C. until a clear solution is obtained. Cool the solution to −20° C. Add to the cooled solution a mixture of 9.3 g (53.4 mmol) N-propyl-1H-indol-1-amine, 7.4 g (53.4 mmol) 4-chloro-3-fluoropyridine and 53 mL NMP while maintaining the internal reaction temperature around −15° C. After the addition is over, the reaction mixture is stirred for ˜30 min at −20° C. The reaction mixture is then added to 100 mL water and 13 mL HCl (37%). Then, add 50 mL n-heptane (2×) and separate the phases. Add to the water phase 10 mL NaOH (32%) and extract the water phase twice with 50 mL n-butyl acetate, wash the combined n-butyl acetate phase with 50 mL water. Add to the resulting n-butyl acetate phase 4.5 mL HCl (37%). Distill the mixture using Dean-Stark trap to remove completely the water. During the distillation a solid precipitates. The suspension is cooled to 5° C. and filtered. After drying at 60–70° C., there remains 10.8 g (3-fluoro-pyridin-4-yl)-(indol-1-yl)-propylamine hydrochloride (75%) as a slightly yellow solid.

reactant | potassium tert-butoxide | 18.0 g | CC(C)([O-])C.[K+]
reactant | N-propyl-1H-indol-1-amine | 53.4 mmol, 9.3 g | C(CC)NN1C=CC2=CC=CC=C12 | C11H14N2
reactant | 4-chloro-3-fluoropyridine | 53.4 mmol, 7.4 g | ClC1=C(C=NC=C1)F | C5H3ClFN
reactant | HCl | 13 mL | Cl | ClH
solvent | NMP | 53 mL | CN1CCCC1=O | C5H9NO
solvent | NMP | 53 mL | CN1CCCC1=O | C5H9NO
solvent | n-heptane | 50 mL | CCCCCCC | C7H16
solvent | water | 100 mL | O | H2O
product | (3-Fluoropyridin-4-yl)-(indol-1-yl)-propylamine hydrochloride | Cl.FC=1C=NC=CC1N(CCC)N1C=CC2=CC=CC=C12 | InChI=1S/C16H16FN3.ClH/c1-2-10-19(16-7-9-18-12-14(16)17)20-11-8-13-5-3-4-6-15(13)20;/h3-9,11-12H,2,10H2,1H3;1H
